US05521196
4-dimethylamino-1-cyclohexanone ethylene ketal
To a solution of 5.0 gm (32 mMol) 1,4-cyclohexanedione mono-ethylene ketal and 10.80 gm (240 mMol) dimethylamine were added 2.0 mL acetic acid and the mixture was stirred at 0° C. for 1.5 hours. To this solution were then added 3.62 gm (58 mMol) sodium cyanoborohydride and the reaction stirred for an additional hour at ambient. The pH of the reaction mixture was adjusted to ~7 with 16 mL acetic acid and stirred 18 hours at ambient. The volatiles were removed under reduced pressure and the residue dissolved in cold 5% tartaric acid solution and then the aqueous phase was made basic with 5N sodium hydroxide. This aqueous phase was extracted well with dichloromethane. These organic extracts were combined and concentrated under reduced pressure to give 5.04 gm (85%) of the title compound as an oil.

reactant | 1,4-cyclohexanedione mono-ethylene ketal | 32 mMol, 5.0 gm | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | dimethylamine | 240 mMol, 10.80 gm | CNC | C2H7N
reactant | sodium cyanoborohydride | 58 mMol, 3.62 gm | C(#N)[BH3-].[Na+]
solvent | acetic acid | 16 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
product | 4-dimethylamino-1-cyclohexanone ethylene ketal | 5.04 gm, 85% | C1COC2(CCC(CC2)N(C)C)O1 | C10H19NO2
